data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-CC_2-c1ccccc1_3-c1ccc(F)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(F)cc1)CCCC(CC)c1ccccc1"],"products_smiles": ["N(c1ccc(F)cc1)CCCC(CC)(c1ccccc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(F)cc1)CCCC(CC)c1ccccc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(F)cc1)CCC[C](CC)c1ccccc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(F)cc1)CCCC(CC)(c1ccccc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-224_1-C1CCCCC1","level": "hard","name": "Pinner Reaction","reactants_smiles": ["C(C1CCCCC1)#N"],"products_smiles": ["C(C1CCCCC1)(=[NH2+])OCC"],"conditions": "HCl, EtOH","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)#[NH+]","step_weight": 0,"rationale": "Protonation of the nitrile nitrogen by HCl increases the electrophilicity of the adjacent carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(=[NH])[OH+](CC)","step_weight": 0,"rationale": "Ethanol, activated by the acidic medium, attacks the electrophilic nitrilium carbon, forming a tetrahedral intermediate stabilized by protonation."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(=[NH2+])OCC","step_weight": 0,"rationale": "Proton transfer to the nitrogen generates a more stable cationic imidate species, facilitating subsequent nucleophilic addition steps."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(N)([NH2])OCC","step_weight": 0,"rationale": "A second nucleophilic addition occurs as ammonia-like nitrogen attacks the electrophilic carbon, driven by the high reactivity of the imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(N)([NH2])[OH+]CC","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group by increasing its positive charge, preparing for elimination."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)(N)=[NH2+]","step_weight": 0,"rationale": "Loss of the protonated hydroxyl group as water occurs readily under acidic conditions, driven by the stability of the resulting iminium ion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=C(N)C(C1CCCCC1)","step_weight": 0,"rationale": "Final proton transfer neutralizes the product, yielding the imino ester salt stabilized by resonance between C=N and the adjacent nitrogen."}],"description": "Under strongly acidic conditions, the nitrile nitrogen is protonated, increasing electrophilicity at the carbon. Ethanol attacks, forming an imidate intermediate. Subsequent proton transfers and addition-elimination steps stabilize intermediates and expel leaving groups, yielding the imino ester (Pinner salt) product."}
